US08314087B2
1-(2-Hydroxyethyl)-5-phenylpiperidin-2-one.
A solution of 1-(2-(benzyloxy)ethyl)-5-phenylpyridin-2(1 H)-one (100 mg, 327 μmol) in MeOH (10 mL) was sparged with argon for 10 min. A portion of palladium hydroxide (46 mg, 327 μmol) was added and the reaction was subjected to 55 psi hydrogen in a Parr shaker for 1 hr. The mixture was filtered through a pad of Celite, and concentrated to a white solid under reduced pressure. MS (ESI pos. ion) m/z (MH+): 220. Calc'd exact mass for C13H17NO2: 219. 1H NMR (400 MHz, Chloroform-d) δ ppm 2.00-2.14 (m, 2 H) 2.46-2.67 (m, 2 H) 3.07-3.18 (m, 1H) 3.33 (br. s., 1 H) 3.42-3.56 (m, 3 H) 3.60-3.68 (m, 1 H) 3.83 (t, J=4.89 Hz, 2H) 7.21-7.30 (m, 3 H) 7.35 (t, J=7.24 Hz, 2 H). 13C NMR (101 MHz, Chloroform-d) δ ppm 27.75, 31.9, 40.37, 51.24, 55.88, 61.79, 126.99, 127.30, 128.85, 141.51, 171.78.

reactant | 1-(2-(benzyloxy)ethyl)-5-phenylpyridin-2(1 H)-one | 327 μmol, 100 mg | C(C1=CC=CC=C1)OCCN1C(C=CC(=C1)C1=CC=CC=C1)=O | C20H19NO2
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium hydroxide | 327 μmol, 46 mg | [OH-].[Pd+2].[OH-]
product | 1-(2-Hydroxyethyl)-5-phenylpiperidin-2-one | OCCN1C(CCC(C1)C1=CC=CC=C1)=O | C13H17NO2
